US04316022
Preparation of 1-morpholino-4,5-dipropionyl-4,5-dihydro-s-triazolo[3,4-c]benzo-as-triazine
A mixture of 4 g (0.0014 mole) of 1-morpholino-4,5-dihydro-s-triazolo[3,4-c]benzo-as-triazine and 40 ml of propionic anhydride is heated at 80° C. for one hour under argon atmosphere. The reaction mixture is evaporated and the residue is treated with ether. The product separates in crystalline form. 3.9 g (69%) of the title compound are obtained; m.p.: 128°-129° C.

reactant | 1-morpholino-4,5-dihydro-s-triazolo[3,4-c]benzo-as-triazine | 0.0014 mole, 4 g | O1CCN(CC1)C1=NN=C2NNC3=C(N21)C=CC=C3 | C12H14N6O
reactant | propionic anhydride | 40 ml | C(CC)(=O)OC(CC)=O | C6H10O3
product | 1-morpholino-4,5-dipropionyl-4,5-dihydro-s-triazolo[3,4-c]benzo-as-triazine | 3.9 g, 69% | O1CCN(CC1)C1=NN=C2N(N(C3=C(N21)C=CC=C3)C(CC)=O)C(CC)=O | C18H22N6O3
